US09283229B2
The mixture of 2-(3-bromophenyl)-N-methoxy-N-methylacetamide (2.0 g, 7.7 mmol), phenylboronic acid (1.42 g, 11.6 mmol), 1-1′-bis(diphenylphosphino)derrocene palladium dichloride (500 mg, 0.77 mmol), and saturated aqueous sodium carbonate solution (1 mL) in N,N-dimethylformamide (20 mL) was heated at 80° C. under N2 overnight. The mixture was poured into water, extracted with EA, dried over Na2SO4, concentrated in vacuo, and purified by column chromatography (PE:EtOAc=30:1-10:1) to afford 2-(biphenyl-3-yl)-N-methoxy-N-methylacetamide (1.8 g, yield 94.7%).

reactant | 2-(3-bromophenyl)-N-methoxy-N-methylacetamide | 7.7 mmol, 2.0 g | BrC=1C=C(C=CC1)CC(=O)N(C)OC | C10H12BrNO2
reactant | phenylboronic acid | 11.6 mmol, 1.42 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 1 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 2-(biphenyl-3-yl)-N-methoxy-N-methylacetamide | 1.8 g, yield 94.7% | C1(=CC(=CC=C1)CC(=O)N(C)OC)C1=CC=CC=C1 | C16H17NO2
